US07847123B2
Preparation of N-octyl-4-hydroxybutyramide
1 mol of octylamine was heated to 100° C. with stirring. 1 mol of gamma-butyrolactone was added dropwise over a period of 30 minutes. The mixture was heated for three hours to 120° C. At the end of the reaction, a vacuum of 50 mbar was applied. The product was obtained after cooling in the form of a pale yellow solid.

reactant | octylamine | 1 mol | C(CCCCCCC)N | C8H19N
reactant | gamma-butyrolactone | 1 mol | C1(CCCO1)=O | C4H6O2
product | N-octyl-4-hydroxybutyramide | C(CCCCCCC)NC(CCCO)=O | C12H25NO2
